US07576115B2
Synthesis of 4-(2-{1-[4-Acetoxy-5-(3,4-dichlorophenyl)thiphen-3-yl]ethylidene}hydrazinecarbothioamido)-2-chlorobenzoic acid
The title compound was prepared from acetic acid 4-acetyl-2-(3,4-dichlorophenyl)thiophen-3-yl ester (39.5 mg, 0.12 mmol) and 2-chloro-4-(hydrazinecarbothioamido)benzoic acid (40.5 mg, 0.132 mmol) following the procedure described in the synthetic example 185.

reactant | acetic acid 4-acetyl-2-(3,4-dichlorophenyl)thiophen-3-yl ester | 0.12 mmol, 39.5 mg | C(C)(=O)C=1C(=C(SC1)C1=CC(=C(C=C1)Cl)Cl)OC(C)=O | C14H10Cl2O3S
reactant | 2-chloro-4-(hydrazinecarbothioamido)benzoic acid | 0.132 mmol, 40.5 mg | ClC1=C(C(=O)O)C=CC(=C1)NC(=S)NN | C8H8ClN3O2S
product | 4-(2-{1-[4-Acetoxy-5-(3,4-dichlorophenyl)thiphen-3-yl]ethylidene}hydrazinecarbothioamido)-2-chlorobenzoic acid | C(C)(=O)OC=1C(=CSC1C1=CC(=C(C=C1)Cl)Cl)C(C)=NNC(NC1=CC(=C(C(=O)O)C=C1)Cl)=S | C22H16Cl3N3O4S2
